US04211773
To a solution of 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)uracil (500 mg) and sodium acetate (100 mg) in 5 ml of glacial acetic acid is added a solution of bromine (240 mg) in 1 ml of glacial acetic acid. After 30 minutes at room temperature, the solvent is removed by evaporation in vacuo. Traces of acetic acid is removed by several co-evaporation with toluene. The residue is dissolved in saturated methanolic ammonia (50 ml) and the mixture is kept standing at room temperature for 2 days. The solvent is removed by evaporation in vacuo and the residue is crystallized from water to give 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromouracil (325 mg), m.p. 214°-216°.

reactant | 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)uracil | 500 mg | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1)F | C18H17FN2O7
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 240 mg | BrBr | Br2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromouracil | 325 mg | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)Br | C9H10BrFN2O5
